US07968552B2
A mixture of 4-{[4′-(3-hydroxy-3-methylbutoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}benzaldehyde, acetic anhydride, pyridine, DMAP and chloroform was stirred at room temperature for 2 days to obtain 3-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)-1,1-dimethylpropyl acetate.

reactant | 4-{[4′-(3-hydroxy-3-methylbutoxy)-2′,6′-dimethylbiphenyl-3-yl]methoxy}benzaldehyde | OC(CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=O)C=C1)C)(C)C | C27H30O4
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-({3′-[(4-formylphenoxy)methyl]-2,6-dimethylbiphenyl-4-yl}oxy)-1,1-dimethylpropyl acetate | C(C)(=O)OC(CCOC1=CC(=C(C(=C1)C)C1=CC(=CC=C1)COC1=CC=C(C=C1)C=O)C)(C)C | C29H32O5
